US04585774
50 Grams of o-carbamoyl-α-(4-benzyl-1-piperazinyl)acetanilide dihydrochloride, 4 g of 10%-palladium carbon, 70 ml of water and 300 ml of methanol were mixed together and the mixture was subjected to catalytic reduction at a room temperature. Then the catalyst was removed from the mother liquor, and the mother liquor was concentrated to dryness. The residue obtained was crystallized by adding acetone, and recrystallized from water-acetone to obtain 35.2 g of o-carbamoyl-α-(1-piperazinyl)acetanilide dihydrochloride. Colorless cotton fiber-like crystals. Melting point: 239.5°-242° C. (decomposed).

reactant | o-carbamoyl-α-(4-benzyl-1-piperazinyl)acetanilide dihydrochloride | Cl.Cl.C(N)(=O)C1=C(NC(CN2CCN(CC2)CC2=CC=CC=C2)=O)C=CC=C1
reactant | water | 70 ml | O | H2O
catalyst | palladium carbon | [C].[Pd]
solvent | methanol | 300 ml | CO | CH4O
product | o-carbamoyl-α-(1-piperazinyl)acetanilide dihydrochloride | 35.2 g | Cl.Cl.C(N)(=O)C1=C(NC(CN2CCNCC2)=O)C=CC=C1 | InChI=1S/C13H18N4O2.2ClH/c14-13(19)10-3-1-2-4-11(10)16-12(18)9-17-7-5-15-6-8-17;;/h1-4,15H,5-9H2,(H2,14,19)(H,16,18);2*1H
